US04639521
To a suspension of 60% sodium hydride (1.12 g) in 2.5 g of ethyl acetate, a solution consisting of 1.78 g of 4-methoxycyclohexanone and 0.5 ml of benzene was dropwise added. The reaction was allowed to proceed at 40° C. for 3 hours and then at room temperature for 3 hours. A small amount of methanol was added to decompose the sodium hydride. The reaction mixture was then poured into water, neutralized with hydrochloric acid, and extracted with ether. Thus, 1.16 g of 2-acetyl-4-methoxycyclohexanone was obtained.

reactant | sodium hydride | 1.12 g | [H-].[Na+]
reactant | 4-methoxycyclohexanone | 1.78 g | COC1CCC(CC1)=O | C7H12O2
reactant | benzene | 0.5 ml | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 2.5 g | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-acetyl-4-methoxycyclohexanone | 1.16 g | C(C)(=O)C1C(CCC(C1)OC)=O | C9H14O3
